US09238639B2
A) Methyl 2-ethyl-6-methylnicotinate
To a mixture of methyl propionylacetate (1.93 mL), 4-trimethylsilyl-3-butyn-2-one (2.65 mL) in MeOH (100 mL) was added ammonium acetate (3.55 g) at room temperature. The mixture was stirred at 60° C. overnight. After cooling, the mixture was concentrated. The residue was diluted with water, and the mixture was extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was dissolved in EtOAc and the insoluble material was removed by filtration. The filtrate was concentrated and the residue was purified by silica gel column chromatography (NH, EtOAc/hexane) to give the title compound (1.56 g).

reactant | methyl propionylacetate | 1.93 mL | C(CC)(=O)CC(=O)OC | C6H10O3
reactant | 4-trimethylsilyl-3-butyn-2-one | 2.65 mL | C[Si](C#CC(C)=O)(C)C | C7H12OSi
reactant | ammonium acetate | 3.55 g | C(C)(=O)[O-].[NH4+]
solvent | MeOH | 100 mL | CO | CH4O
product | Methyl 2-ethyl-6-methylnicotinate | 1.56 g | C(C)C1=C(C(=O)OC)C=CC(=N1)C | C10H13NO2
